US05189054
Preparation of 3-[(p-chlorophenacyl)amino]-2-carbethoxy-4,6-dichloroindole
Dissolve 3-amino-2-carbethoxy-4,6-dichloroindole (2.2 g, 8 mmol) in methylene chloride (70 mL) and add triethylamine (1.16 mL, 8 mmol) followed by p-chlorobenzoyl chloride (0.976 mL, 8 mmol). Stir the reaction 48 hours at room temperature. Dilute the reaction with ethyl acetate (300 mL), wash with water (100 mL), dry the organic phase over magnesium sulfate, filter and concentrate in vacuo. Recrystallize the residue from ethyl acetate/hexane to yield the title compound as a fluffy solid (2.7 g,79%).

reactant | 3-amino-2-carbethoxy-4,6-dichloroindole | 8 mmol, 2.2 g | NC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C11H10Cl2N2O2
reactant | triethylamine | 8 mmol, 1.16 mL | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzoyl chloride | 8 mmol, 0.976 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 70 mL | C(Cl)Cl | CH2Cl2
product | 3-[(p-chlorophenacyl)amino]-2-carbethoxy-4,6-dichloroindole | 2.7 g, 79% | ClC1=CC=C(C(CNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)OCC)=O)C=C1 | C19H15Cl3N2O3
